US08119676B2
To a solution of 2-oxo-3-{2-oxo-1-phenyl-2-[(S)-3-(4-propyl-piperazin-1-yl)-pyrrolidin-1-yl]-ethyl}-2,3-dihydro-1H-benzoimidazole-5-carbonitrile (70 mg, 0.15 mmol), DMAP (catalytic amount) and 2-methoxybenzenesulfonyl chloride (37 mg, 0.18 mmol) in CH2Cl2 (3 mL) SilicaBond-diethylamine resin (Silicycle; 1.04 mmol/g; 570 mg, 0.59 mmol) was added. The reaction mixture was agitated at room temperature for 24 hours, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel using 4% methanol in CH2Cl2 as eluent to afford 1-(2-methoxy-benzenesulfonyl)-2-oxo-3-{2-oxo-1-phenyl-2-[(S)-3-(4-propyl-piperazin-1-yl)-pyrrolidin-1-yl]ethyl}-2,3-dihydro-1H-benzoimidazole-5-carbonitrile (55 mg, 57%) as a white solid.

reactant | 2-oxo-3-{2-oxo-1-phenyl-2-[(S)-3-(4-propyl-piperazin-1-yl)-pyrrolidin-1-yl]-ethyl}-2,3-dihydro-1H-benzoimidazole-5-carbonitrile | 0.15 mmol, 70 mg | O=C1N(C2=C(N1)C=CC(=C2)C#N)C(C(N2C[C@H](CC2)N2CCN(CC2)CCC)=O)C2=CC=CC=C2 | C27H32N6O2
reactant | 2-methoxybenzenesulfonyl chloride | 0.18 mmol, 37 mg | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | CH2Cl2 | 0.59 mmol, 3 mL, 570 mg | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(2-methoxy-benzenesulfonyl)-2-oxo-3-{2-oxo-1-phenyl-2-[(S)-3-(4-propyl-piperazin-1-yl)-pyrrolidin-1-yl]ethyl}-2,3-dihydro-1H-benzoimidazole-5-carbonitrile | 55 mg, 57% | COC1=C(C=CC=C1)S(=O)(=O)N1C(N(C2=C1C=CC(=C2)C#N)C(C(N2C[C@H](CC2)N2CCN(CC2)CCC)=O)C2=CC=CC=C2)=O | C34H38N6O5S
